US06348474B1
1-(2,4-Dichlorobenzyl)-3-ethyl-7-(methoxycarbonyl)-2,4(1H,3H)-quinazolinedione
A mixture of 3-ethyl-7-(methoxycarbonyl)-2,4(1H,3H)-quinazolinedione (2.17 g), 2,4-dichlorobenzyl chloride (2.05 g), potassium iodide (1.45 g) and potassium carbonate (5.0 g) in acetone (80 ml) was heated under reflux for 1.5 hr. After cooling, water (50 ml) was added to the reaction mixture and the precipitate was collected by filtration. The precipitate was washed with water (30 ml) and methyl t-butyl ether (30 ml) and dried to give the object compound (2.60 g).

reactant | 3-ethyl-7-(methoxycarbonyl)-2,4(1H,3H)-quinazolinedione | 2.17 g | C(C)N1C(NC2=CC(=CC=C2C1=O)C(=O)OC)=O | C12H12N2O4
reactant | 2,4-dichlorobenzyl chloride | 2.05 g | ClC1=C(CCl)C=CC(=C1)Cl | C7H5Cl3
reactant | potassium iodide | 1.45 g | [I-].[K+]
reactant | potassium carbonate | 5.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | 1-(2,4-Dichlorobenzyl)-3-ethyl-7-(methoxycarbonyl)-2,4(1H,3H)-quinazolinedione | 2.60 g | ClC1=C(CN2C(N(C(C3=CC=C(C=C23)C(=O)OC)=O)CC)=O)C=CC(=C1)Cl | C19H16Cl2N2O4
